Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
- left epididymitis in setting of recent vasectomy
- gross hematuria
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o male without contributory PMH who recently (___) 
underwent vasectomy via a single midline incision by Dr. ___ 
at ___. Per operative report the case was 
uncomplicated. He did well but around ___ yesterday developed 
acute onset L > R scrotal pain as well as streaks of blood in 
urine progressing to gross hematuria.

He was initially evaluated at ___ and then transferred to 
the ___ ED. Scrotal ultrasound was not available, so a CT scan 
was performed showing bilateral soft tissue stranding consistent 
with his recent procedure. He was additionally noted to be 
hypokalemic (2.8) with a leukocytosis to ___. He was given K
and vanc/ceftriaxone. Per discussion with the on-call urologist 
he was transferred to ___ for further evaluation.

The patient reports a history of testicular torsion in his ___, 
does not recall laterality, did not require operative
intervention.

Of note, in addition to the above issues the patient reported a 
severe dry cough x 3 days on his initial presentation to the 
urgent care facility, raising concern for a coexisting lung 
infection. He was started on a three-day course of azithromycin.

At present his pain is somewhat improved, but he attributes this 
at least partially to being in bed overnight. He endorses 
malaise/fatigue and myalgias but no frank fevers, chills, 
sweats, nausea/vomiting, chest pain, or shortness of breath.
 
Past Medical History:
- asthma
- HTN
- HLD
- vasectomy per HPI
- prior h/o testicular torsion, per HPI
 
Social History:
___
Family History:
- adopted, no known ___
 
Physical Exam:
Exam on discharge:

- AAOx4, WDWN male resting comfortably in bed, appearance c/w 
stated age
- breathing unlabored on RA
- skin WWP
- abd soft, ND; previous LLQ TTP much improved
- scrotum mildly erythematous; left epididymus tender but 
improved from admission; no fluctuance or crepitus
- moving all extremities spontaneously; no edema
 
Pertinent Results:
___ 02:10AM BLOOD WBC-15.3* RBC-4.91 Hgb-14.5 Hct-42.1 
MCV-86 MCH-29.5 MCHC-34.4 RDW-12.8 RDWSD-39.7 Plt ___
___ 07:40AM BLOOD WBC-12.7* RBC-4.40* Hgb-13.3* Hct-38.1* 
MCV-87 MCH-30.2 MCHC-34.9 RDW-13.0 RDWSD-40.6 Plt ___
___ 05:50AM BLOOD WBC-11.8* RBC-4.50* Hgb-13.1* Hct-40.3 
MCV-90 MCH-29.1 MCHC-32.5 RDW-13.0 RDWSD-42.9 Plt ___

___ 02:10AM BLOOD Glucose-125* UreaN-12 Creat-0.8 Na-137 
K-3.0* Cl-97 HCO3-26 AnGap-17
___ 07:40AM BLOOD K-3.2*
___ 01:47PM BLOOD K-3.1*
___ 05:50AM BLOOD Glucose-130* UreaN-11 Creat-0.7 Na-141 
K-4.0 Cl-103 HCO3-29 AnGap-13
___ 05:50AM BLOOD Calcium-8.3* Phos-2.1* Mg-2.1
 
Brief Hospital Course:
Mr. ___ was admitted for observation, pain control, and 
antibiotic treatment due to his poor pain control and elevated 
temperatures (Tmax in ED 101.0). His chlorthalidone was held due 
to his hypokalemia. He was given a single dose of IV ketorolac 
and then put on a pain regimen of PO APAP, ibuprofen, and 
oxycodone. He was treated with double antibiotic coverage (IV 
ceftriaxone/PO ciprofloxacin).

He remained AFHDS overnight and on the morning of HD 2 was 
reporting much improved pain control. His hematuria had 
improved, though he was unsure to what extent as he had been 
provided with a non-translucent cardboard urinal. He had no 
further elevated temperatures. His K had normalized to 4.2 after 
aggressive IV and PO repletion.

His QTc had been noted to be prolonged at >500 in the ED; this 
was rechecked on the morning of HD 2 given the initiation of 
ciprofloxacin and had normalized to 444.

He was discharged home in good condition on the morning of HD 2 
(___ with oral pain medication and instructions 
to complete a two-week course of PO ciprofloxacin. He was to 
follow up with Dr. ___ prior to the completion of his 
antibiotics in order to discuss a longer course of treatment and 
to pursue further workup of his gross hematuria. His home 
medications were resumed. He was instructed to follow up with 
his PCP within the week for a repeat BMP and QTc check.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing, shortness of 
breath 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Famotidine 40 mg PO BID 
6. Chlorthalidone 25 mg PO DAILY 
7. Carvedilol 25 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 2 Weeks 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 5 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
5.  Phenazopyridine 100 mg PO TID:PRN dysuria Duration: 3 Days 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth three times a 
day Disp #*10 Tablet Refills:*0 
6.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing, shortness of 
breath  
7.  Atorvastatin 40 mg PO QPM  
8.  Carvedilol 25 mg PO BID  
9.  Chlorthalidone 25 mg PO DAILY  
10.  Famotidine 40 mg PO BID  
11.  FLUoxetine 40 mg PO DAILY  
12.  Fluticasone Propionate 110mcg 2 PUFF IH BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- left epididymitis in setting of recent vasectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- Please continue taking your oral antibiotics (ciprofloxacin) 
for at least two weeks.

- Please resume activites according to your prior discharge 
instructions.

- Please contact Dr. ___ or go to the emergency 
room if you experience worsening pain or worsening fever (> 
101.0).

- It is important that you undergo a full workup to determine 
the cause of your hematuria (blood in urine), in order to rule 
out a concerning cause such as a bladder tumor. You can pursue 
this with Dr. ___ you see him in clinic.
 
Followup Instructions:
___